US06774082B2
Preparation of 16-butoxycarbonyl-10,13,16-tri(p-toluenesulfonyl)-10,13,16-triazahexadecanol
A mixture of 14 g of 1-butoxycarbonyl-1,4,7-tri-(p-toluenesulfonyl)-1,4,7-triazaheptane, 7.04 g of 9-bromo-1-nonanol, and 34.25 g of Cs2CO3 in 700 ml of DMF was stirred at 65° C. for 24 hours. The mixture was cooled and concentrated under reduced pressure. CH2Cl2 was added and the remaining solid was filtered and discarded. The solvent was evaporated to give 22.17 g of crude product which was purified on silica gel and eluted with CH2Cl2/ethyl acetate (50/1-20/1 v/v). 7.95 g of pure product was obtained. The preparation scheme is shown below:

reactant | 1-butoxycarbonyl-1,4,7-tri-(p-toluenesulfonyl)-1,4,7-triazaheptane | 14 g | C(CCC)OC(=O)N(CCN(CCNS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | C30H39N3O8S3
reactant | 9-bromo-1-nonanol | 7.04 g | BrCCCCCCCCCO | C9H19BrO
reactant | Cs2CO3 | 34.25 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 700 ml | CN(C)C=O | C3H7NO
product | 16-butoxycarbonyl-10,13,16-tri(p-toluenesulfonyl)-10,13,16-triazahexadecanol | 7.95 g | C(CCC)OC(=O)N(CCN(CCN(CCCCCCCCCO)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | C39H57N3O9S3
